US09290451B2
e) 6-Cyclopropylmethoxy-5-(tetrahydro-furan-3-yl)-pyridine-2-carboxylic acid ((S)-1-carbamoyl-3-methyl-butyl)-amide
The title compound was synthesized in analogy to Example 1, using the mixture of 6-(cyclopropylmethoxy)-5-(tetrahydrofuran-3-yl)-pyridine-2-carboxylic acid and 6-(cyclopropylmethoxy)-5-(tetrahydrofuran-2-yl)-pyridine-2-carboxylic acid (mixture from Example 114 d), and (2S)-2-amino-4-methyl-pentanamide (CAN 687-51-4) as starting materials, MS (EI): m/e=376.2 [M+H]+.

reactant | 6-(cyclopropylmethoxy)-5-(tetrahydrofuran-3-yl)-pyridine-2-carboxylic acid | C1(CC1)COC1=C(C=CC(=N1)C(=O)O)C1COCC1 | C14H17NO4
reactant | 6-(cyclopropylmethoxy)-5-(tetrahydrofuran-2-yl)-pyridine-2-carboxylic acid | C1(CC1)COC1=C(C=CC(=N1)C(=O)O)C1OCCC1 | C14H17NO4
reactant | (2S)-2-amino-4-methyl-pentanamide | N[C@H](C(=O)N)CC(C)C | C6H14N2O
product | 6-Cyclopropylmethoxy-5-(tetrahydro-furan-3-yl)-pyridine-2-carboxylic acid ((S)-1-carbamoyl-3-methyl-butyl)-amide | C(N)(=O)[C@H](CC(C)C)NC(=O)C1=NC(=C(C=C1)C1COCC1)OCC1CC1 | C20H29N3O4
